US08912330B2
(E)-2-(5-bromo-3-nitropyridin-2-yl)-N,N-dimethylethenamine:
A solution of 5-bromo-2-methyl-3-nitropyridine (3.0 g, 13.8 mmol) and N—N-dimethylformamide-dimethylacetal (DMF-DMA) in 45 ml of DMF was heated at 90° C. for 4 hours, and cooled to room temperature. The solvent was evaporated and the residue dissolved in dichloromethane (DCM), which was washed with saturated NaHCO3 and brine, and chromatographed (EtOAc/Hexanes 1:10) to give a red solid, 2.86 g, in 76% yield.

reactant | 5-bromo-2-methyl-3-nitropyridine | 13.8 mmol, 3.0 g | BrC=1C=C(C(=NC1)C)[N+](=O)[O-] | C6H5BrN2O2
reactant | DMF | 45 ml | CN(C)C=O | C3H7NO
product | (E)-2-(5-bromo-3-nitropyridin-2-yl)-N,N-dimethylethenamine | 76% yield | BrC=1C=C(C(=NC1)/C=C/N(C)C)[N+](=O)[O-] | C9H10BrN3O2
